*** Version 5.200
*** dspf backannotate
*|DSPF 1.0
*|DIVIDER /
*|DELIMITER :
*|GROUND_NET VSS
*

*|NET x1 65ff
*|I ( xinv1:out xinv1 out O 0.1 0.2 0.3)
*|I ( xinv2:in xinv2 in I 0.1 0.2 0.3)
R1 xinv1:out X1:1 100
R3 X1:1 X1:2 100
R4 X1:2 xinv2:in 100
C1 X1:1 VSS 15ff
C2 X1:2 VSS 15ff
C3 X1:2 XC 35ff

*********** instance section **************
xinv1 in1 xinv1:out inv
xinv2 xinv2:in x2 inv
xinv3 x2 x3 inv
xinv4 x3 x4 inv
xinv5 x4 out1 inv
xinv6 in2 xc inv
xinv7 xc out2 inv

